US08097634B2
4-(2-Methoxy-ethyl)-2-oxo-piperidine-4-carboxylic acid ethyl ester (2 g) and 4-(trifluormethoxy)aniline (3.09 g) were dissolved in toluene (100 ml) under an argon atmosphere at RT, dimethylaluminium chloride in hexane (1 molar, 39.25 ml) was added and the mixture was refluxed for 8 hours. The reaction mixture was then cooled to RT, diluted with AcOEt, quenched with water (9 ml), dried over MgSO4, filtered and the solvent was evaporated off. The residue was adsorbed on silica gel and purified by flash chromatography on silica gel (acetone/CH2Cl2, gradient from 0 to 40%) to give 2-(4-trifluoromethoxy-phenyl)-2,8-diaza-spiro[4.5]decane-1,7-dione as light brown solid. MS (ESI): 329.1 (MH+).

reactant | 4-(2-Methoxy-ethyl)-2-oxo-piperidine-4-carboxylic acid ethyl ester | 2 g | C(C)OC(=O)C1(CC(NCC1)=O)CCOC | C11H19NO4
reactant | 4-(trifluormethoxy)aniline | 3.09 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | dimethylaluminium chloride | [Cl-].C[Al+]C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 1 molar, 39.25 ml | CCCCCC | C6H14
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(4-trifluoromethoxy-phenyl)-2,8-diaza-spiro[4.5]decane-1,7-dione | FC(OC1=CC=C(C=C1)N1C(C2(CC1)CC(NCC2)=O)=O)(F)F | C15H15F3N2O3
